Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])[H:11]>>[C:5]([H:6])([O:7][H:8])=[C:9]([H:10])[H:11].[H:1][C:2]#[C:3][H:4],-1.48121140313
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[H:10]>>[C:3]([H:4])([H:5])=[C:6][C:7]([H:8])([H:9])[H:10].[H:1][O:2],2.5884343481
[H:1][C:2](/[C:3]([H:4])=[C:5](/[H:6])[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1]/[C:2](=[C:3](/[H:4])[C:5][O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:6],4.1426263458199974
[C:9]([H:10])([H:11])[H:12].[H:1][C:2][O:3]/[C:4]=[C:5](\[H:6])[O:7][H:8]>>[H:1][C:2][O:3]/[C:4](=[C:5](/[H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12],-4.91300683924
[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4][H:5]>>[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-3.84919867232
[H:1][C:2]([O:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9])=[O:10]>>[H:1][C:2]1[O:3][C:4]=[C:5]([C:6]([H:7])([H:8])[H:9])[O:10]1,0.894547602271
[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1][O:2][C:3][H:4]>>[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-7.244591894630001
[C:1][C:2]#[C:3][C:4]([O:5][H:6])[O:7][H:8]>>[C:1]#[C:2].[C:3]=[C:4]([O:5][H:6])[O:7][H:8],7.53969508105
[H:1][C:2]=[C:3]([O:4][H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:6]([H:7])=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][O:4][H:5],2.37340490038
[H:1][C:2]#[C:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3]=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2],8.37818067854
[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10][H:11]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:7][H:8].[O:9]=[C:10][H:11],1.28175793407
[C:9]([H:10])[H:11].[H:1][C:2][O:3][C:4][C:5]([H:6])=[C:7][H:8]>>[H:1][C:2][O:3][C:4]([C:5]([H:6])=[C:7][H:8])=[C:9]([H:10])[H:11],-7.57877568497
[C:1]#[C:2][O:3][C@@:4]1([H:5])[O:6][C:7]1[H:8]>>[C:1]#[C:2][O:3][C:4]([H:5])[C:7](=[O:6])[H:8],-1.59940664516
[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])=[C:11]([H:12])[H:13],-1.62969896956
[O:1]=[C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:5]([H:6])[H:7].[O:1]=[C:2]([H:3])[C:4][C:8]([H:9])([H:10])[O:11][H:12],8.23127966465
[C:4]#[C:5][C:6]([H:7])([H:8])[H:9].[H:1][O:2][C:3][C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([C:4]#[C:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-5.34799767951
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13]>>[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13].[H:1][O:2][C:3][H:4],2.96231599951
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10][O:11][H:12]>>[C:10][O:11][H:12].[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[H:9],3.28144458604
[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.42640211316
[H:1][C:2]([O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:2]([O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1],4.59408285367
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12]>>[C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12].[H:1][O:2],5.56834819369
[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:10].[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])=[C:11]([H:12])[H:13],2.28008987763
[H:1][C:2]([H:3])[O:5][C:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:4]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.48871256051
[H:1][O:2]/[C:3]=[C:4](\[O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1].[O:2]=[C:3]=[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],1.3113546593
[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])[C:9]([H:10])([H:11])[H:12].[H:8]>>[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-3.9043995365900006
[C:13]([H:14])([H:15])[H:16].[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.0353696797900005
[H:1][C:2]=[C:3]([H:4])[C:5][C:6]([H:7])([H:8])[H:9]>>[H:1][C:2][C:3]#[C:5][C:6]([H:7])([H:8])[H:9].[H:4],1.79686901407
[H:1][O:2][C:3].[O:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-1.11353436347
[C:1]#[C:2].[C:3]([H:4])=[C:5]([H:6])[H:7]>>[C:1]#[C:2][C:3]([H:4])=[C:5]([H:6])[H:7],-6.0221818214
